US08895733B2
Intermediate 236: Ethyl 6-(oxan-4-yloxy)pyridine-3-carboxylate
Oxan-4-ol (0.302 g, 2.96 mmol) was dissolved in THF (5 mL) and cooled to 0 C under nitrogen. Potassium tert-butoxide (0.332 g, 2.96 mmol) was added and the mixture stirred for 5 min. Ethyl 6-chloronicotinate (0.500 g, 2.69 mmol) was added, the mixture was warmed to room temperature and stirred for 3 h. Water (5 mL) was added and the mixture extracted with EtOAc (2×10 mL). The organic layers were dried over sodium sulfate and concentrated under vacuum. The residue was purified by FCC, eluting with a gradient of 5-20% EtOAc in heptane to afford the title compound as a colourless oil (0.239 g, 35%). 1H NMR (250 MHZ, CDCl3) δ ppm 8.80 (1H, dd), 8.14 (1H, m), 6.73 (1H, dd), 5.25 (1H, m), 4.39 (2H, dq), 3.96 (2H, m), 3.60 (2H, m), 2.05 (2H, m), 1.81 (2H, m) and 1.40 (3H, dt).

reactant | Oxan-4-ol | 2.96 mmol, 0.302 g | O1CCC(CC1)O | C5H10O2
reactant | Potassium tert-butoxide | 2.96 mmol, 0.332 g | CC(C)([O-])C.[K+]
reactant | Ethyl 6-chloronicotinate | 2.69 mmol, 0.500 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | Water | 5 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl 6-(oxan-4-yloxy)pyridine-3-carboxylate | 0.239 g, 35% | O1CCC(CC1)OC1=CC=C(C=N1)C(=O)OCC | C13H17NO4
